US05631403
Preparation of N-hydroxyacetyl-N-isopropyl-(4-fluoroaniline)
In a suitable apparatus (500 ml flask), 23.0 g (0.1 mol) of N-chloroacetyl-N-isopropyl-4-fluoroaniline and 11.7 g (0.11 mol) of sodium carbonate are refluxed (100° C.) in a solution of 140 ml of water and 200 ml of N-methylpyrrolidone. After 2.5 hours, the solvent mixture is stripped off in vacuo and the residue distilled at 2 to 3 torr and 132° to 135° C. This gives 18.1 g (86% of theory) of N-hydroxyacetyl-N-isopropyl-(4-fluoroaniline) with a purity of 99.1% (GC).

reactant | N-chloroacetyl-N-isopropyl-4-fluoroaniline | 0.1 mol, 23.0 g | ClCC(=O)N(C1=CC=C(C=C1)F)C(C)C | C11H13ClFNO
reactant | sodium carbonate | 0.11 mol, 11.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 140 ml | O | H2O
solvent | N-methylpyrrolidone | 200 ml | CN1C(CCC1)=O | C5H9NO
product | N-hydroxyacetyl-N-isopropyl-(4-fluoroaniline) | OCC(=O)N(C1=CC=C(C=C1)F)C(C)C | C11H14FNO2
